Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
lower extremity pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ w no sig PMH, homeless presents with ___ pain. Pt reports 
that he has had months ___ pain bilaterally and is convinced 
he has an infection. He believes he has had a fever but has not 
checked his temperature. He thinks he might have had chills. He 
says his LEs have been swollen for months. No ___ trauma, history 
of clots, other edema or frothy urine, orthopnea, PND, SOB. No 
HA, confusion, numbness, but has felt weak generally. He has no 
chest pain, SOB, abdominal pain, jaundice, diarrhea, 
constipation, dysuria, hematuria, frequency. Reports all over 
aching pain. Is convinced he has an infection and is 
perseverating on this fact. He denies toxic ingestions.
Presented to ED, noted to be malodorous with edematous LEs. 
Limited ___ negative (pt refused calves). Vital signs and labs 
stable. Admitted to medicine for fatigue.
ROS otherwise negative 10 systems except as above.
Pt is a very poor historian.
 
Past Medical History:
hernia surgery ___

 
Social History:
___
Family History:
denies, does not talk about family
 
Physical Exam:
97.6 120/62 81 16 99%RA
obese man, lying flat in bed
has a cup tied to his R hand with a rubber band ("symbolic of 
family, must stay on")
sedate but interactive and pleasant, perseverating on having an 
infection
JVP flat
RRR no mrg
CTAB
obese, well healed abdominal incision, ntnd
wwp, 2+ DPPs, 1+ ___ to mid shin, areas of dirty scale, some 
areas of erythema and minimal warmth over anterior shins 
bilaterally, malodorous feet
A&Ox3, able to ___ backwards, able to say would mail a 
stamped letter found on street, very concrete with abstract 
phrases, no asterixis, ___ BUE/BLE, sensation intact to LT 
BUE/BLE

Exam on discharge:
Vitals: 97.8 BP: 130/94 HR: 68 R: 18 O2: 100%RA
Gen: NAD, lying in bed. Eyes closed, walking around room without
difficulty
Eyes: EOMI, sclerae anicteric
ENT: MMM
Cardiovasc: RRR, no MRG, full pulses
Resp: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, NT, ND, BS+
EXT:  Bilateral Lower extremity erythema with some excoriations.
Non- pitting. Not itching. No rashes on hands or in interdigital
spaces.
Neuro: AAOx3. No facial droop.
Psych: Full range of affect

 
Pertinent Results:
___ 01:40AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 10:09PM   LACTATE-1.8
___ 09:06PM   GLUCOSE-88 UREA N-12 CREAT-0.6 SODIUM-139 
POTASSIUM-5.1 CHLORIDE-108 TOTAL CO2-27 ANION GAP-9
___ 09:06PM   ALT(SGPT)-16 AST(SGOT)-23 ALK PHOS-59 TOT 
BILI-0.2
___ 09:06PM   LIPASE-32
___ 09:06PM   ALBUMIN-3.7
___ 09:06PM   WBC-7.5 RBC-4.14* HGB-11.6* HCT-36.2* MCV-87 
MCH-28.0 MCHC-32.0 RDW-14.6 RDWSD-46.8*
___ 09:06PM   NEUTS-67.3 ___ MONOS-7.4 EOS-3.0 
BASOS-0.7 IM ___ AbsNeut-5.02 AbsLymp-1.59 AbsMono-0.55 
AbsEos-0.22 AbsBaso-0.05

___ 07:15AM BLOOD WBC-7.2 RBC-4.78 Hgb-13.7 Hct-41.7 MCV-87 
MCH-28.7 MCHC-32.9 RDW-14.5 RDWSD-46.2 Plt ___
___ 07:15AM BLOOD WBC-7.2 RBC-4.78 Hgb-13.7 Hct-41.7 MCV-87 
MCH-28.7 MCHC-32.9 RDW-14.5 RDWSD-46.2 Plt ___
___ 09:06PM BLOOD Lipase-32
___ 09:06PM BLOOD proBNP-188*
___ 07:15AM BLOOD Calcium-9.5 Phos-3.2 Mg-2.0
___ 07:10AM BLOOD VitB12-254
___ 09:06PM BLOOD Osmolal-291
___ 07:10AM BLOOD TSH-3.5
___ 07:10AM BLOOD CRP-3.7
___ 07:10AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

SED RATE BY MODIFIED          6                   < OR = 15 mm/h
WESTERGREN                                        

RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

Partial ___
No DVT in the visualized right or left lower extremity veins. 
Calf veins not imaged because patient declined this portion of 
the exam. 

CXR:
IMPRESSION:  
No acute cardiopulmonary process. 
  

 
Brief Hospital Course:
___ homeless gentleman presents with mild ___ and personal 
concern for infection and recently noted to have +rapid strep.

# Lower extremity edema/concern for cellulitis: Given exam, not 
clear that pt actually has a cellulitis. Seems more consistent 
with irritation  and chronic venous stasis changes. The patient 
had a partial ___ which was negative for DVT. BNP was checked 
and was 188 making CHF an unlikely cause of edema. TSH, CRP, 
ESR, RPR, B12 were checked and were all within normal limits. 
Urine protein/creatinine ratio was normal. The patient was 
started on clindamycin as treatment for his strep pharyngitis as 
below. He had no other signs or symptoms concerning for 
cellulits.

#Strep pharyngitis
On review of records from ___ noted to have positive rapid 
strep test. He was given penicillin which he did not take due to 
allergy. He was started on clindamycin for a ___oncern for psychosis.
The patient was seen by both social work and psychiatry while 
hospitalized. Social work was able to determine that he is known 
to health care for the homeless and hasn't been seen in the ___ 
___ since ___. His PCP is listed as ___. 

He was seen by psychiatry from the psychiatry assessment: 
"Mr. ___ appears to have some form of psychotic disorder, 
currently
characterized by somatic delusions/preoccupations and paranoia
around finances. Given his current mental status, his absence of
family/social supports or psychosocial services, and subjective
sense that he is too unstable to leave the hospital despite
medical clearance by primary team, it seems reasonable to pursue
inpatient psychiatric hospitalization at this time for safety,
diagnostic clarification, psychopharmacological management, and
aftercare planning/social service coordination." 

Transitional issues:
- should complete 9 days of clindamycin

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Clindamycin 300 mg PO Q8H 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth Q8hrs Disp #*27 
Capsule Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Strep pharyngitis
Chronic venous stasis changes
Unspecified psychiatric disorder
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,

You were evaluated at ___ for concerns of leg infection. You 
leg wounds are more consistent with chronic changes and do not 
represent an infection currently. It is important that you keep 
this area clean and dry. On review of your records, it was noted 
you had a positive strep test at ___. You were started on 
clindamycin to treat strep throat. You will need to continue 
this medication for an additional 9 days. You were seen by 
psychiatry who recommended inpatient psychiatric admission. You 
will be transferred for continued care.
 
Followup Instructions:
___